Name:  ___                        Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I'm fine now."
 
Major Surgical or Invasive Procedure:
n/a

 
History of Present Illness:
Per Dr. ___ ___ ED Initial Psychiatry Consult note:
"Ms. ___ is a ___ ___ undergraduate senior and
biology major with unspecified depressive disorder, with no 
prior
SA or psychiatric hospitalizations self presenting to ___ for
GI distress and HA following ingestion of full bottle of
melatonin 10mg and multiple pills of Ibuprofen in reported
suicide attempt.

Patient consistently reports that presentation is following
ingestion of multiple medications. This included Melatonin ~30
pills of 10mg and Ibuprofen 10 or so pills of unknown strength.
These she consumed all last evening. Prior to presentation to ED
she felt dizzy and had a headache and GI upset. Patient's
reasoning behind consuming the medications is inconsistent.
Initially she states to this interviewer that she feels fine and
would like to go home. She states that she has had difficulty
sleeping and she took them because "I was thinking maybe I could
sleep." She did acknowledge later in the interview that she knew
consuming that quantity of medication "will hurt me." Later on 
in
the interview patient states that "last night I felt so down.
That is why I took the pills." When asked overtly if consuming
medications was to end her life patient returns to statement 
that
it was to sleep. She then contradicts self later stating that 
she
had been thinking about it for some time but then later 
describes
it as more impulsive in nature.   

Patient endorses multiple psychosocial stressors leading up to
consumption of medications including current restraining order
against her ex-boyfriend.  Patient's boyfriend physically
assaulted her after the break-up in ___ at which time
she filed a restraining order.  There was a court date scheduled
for ___ but he did not show up.  Following the break-up she
reports that her boyfriend became "psychiatrically unstable." 
Since this time she has felt guilty thinking that she may have
caused his psychiatric problems.  She reports that for the last
month she has had difficulty sleeping with fatigue, feelings of
guilt, and worthlessness that has been increasing. Stress and
pressure everyday seems to be increasing as she feels like she
constantly needs to "control herself." She acknowledges suicidal
thoughts of increasing frequency as well though denies thinking
of specific plans. She reports that she felt even more lonely 
and
upset following an event in her apartment where she feels like
she might have said something that offended one of her friends
while she was intoxicated. This "made me think that both and 
boys
and girls don't like me...That I was mistake in the world." This
event in addition to insomnia, poor mood, loneliness, and other
stressors made patient feel as if she couldn't "stand my life
anymore; it feels like a failure." 

She endorses spending a significant amount of time thinking 
about
self image. She worries about other peoples perceptions of her
and if she appears to be in "control." She reports feeling
additional pressure from parents to find a new relationship 
given
her age. Both her parents are physicians and encouraged her to
study biology. Initially she states that she did not want to but
now enjoys the work. She denies social isolation or poor
performance in school.

COLLATERAL
#Nursing notes
Safety Screening: 
Suicide: 
1. Over the past two weeks, have you felt down, depressed or
hopeless? yes. 
2. Over the past two weeks, have you had thoughts of killing
yourself? yes. 
2a. Have you been thinking about how you might kill
yourself? (Plan): yes. 
2b. Have you had some intention of acting on your thoughts?
(Intent): yes.
3. Have you ever attempted to kill yourself? yes. 
3a. When did this last happen? within the past 24 hours
(including today).

#friend
___
___
She's been down for some time, in the setting of change of her
relationship. I think she just needs time to get over the
feelings. Going to work regularly and doing okay in school. "She
was having an argument with one of her best friend. A lot of
changes make her feel a little down. She just needs to relax." 
I was with her in the last 24 hours. She is not happy but she
just needs rest.    
I do not think that she would do "that again."

In the ED, no behavioral dysregulation or restraints needed.
Friend at bedside.

On interview today, pt states that she doesn't understand why 
she
was admitted to ___ 4. She feels because ___ is not 
her
first language there was a miscommunication in the Emergency
Department. She denies current or past suicidal ideation/intent
plan. She states that she did intend to take melatonin to sleep;
she states she misread the bottle and took 200mg rather than 
20mg
for sleep. Further she shares that she took ibuprofen for
stomachache. She denies taking these medications with an intent
to harm herself or end her life. She states she has mild stress
at her internship at the hospital as well as stress at school;
however she states these have been manageable. She denies
depressive sx sleep/appetite/energy/concentration changes,
anhedonia, pervasive hopelessness or suicidal
ideation/intent/plan. She denies general anxiety or panic
attacks. She denies manic sx indiscretion, sleeplessness,
talkativeness, grandiosity. Denies AVH/delusions. Denies trauma
hx or hypervigilance/nightmares. Denies eating disordered
behavior including restricting/purging. 

 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
 - Past diagnoses: ___ depression
 - Hospitalizations: none 
 - Psychiatrist & Therapist: Just saw a therapist once in ___
 - Medication and ECT trials (reason for d/c if known): no
medications
 - Self-injury/Suicide attempts: scratching self one year ago.
Denies
 - Trauma: denies 
 -Access to weapons: denies

PAST MEDICAL HISTORY:
denies           

 MEDICATIONS:
 none

 ALLERGIES: 
 NKDA

 
Social History:
SOCIAL HISTORY:
B/R: ___, grew up in ___ until age ___. Went to ___. Dad lives in ___. My parents are both ___ and they
have very high requirements. They pushed me to do it. 
Siblings/Social supports: no 
Highest level of Education: undergraduate at ___,
___, ___. 
Religion/Spirituality: no  
Pets: cat 
Lives with self in an apartment. 
Work/volunteer at ___ 
"Used to love travelling and swimming, now I love nothing." 

SUBSTANCE USE HISTORY:
 -Caffeine: denies
 -Tobacco: ___ cigarettes per day, declines nicotine patch
 -Alcohol: socially, rarely intoxicated. Denies history of
alcohol withdrawal, DTs, seizures.
 -Marijuana: denies
 -Heroin: denies
 -Opiates: denies
 -Benzos: denies
 -Cocaine: denies
 -Amphetamines/speed: denies
 -LSD/PCP: denies
 -___: denies
 -Other Drugs: Denies
 
Family History:
-Psychiatric Diagnoses: none
 -Substance Use Disorders: none
 -Suicide Attempts/Completed Suicides: none
 
Physical Exam:
 -HEENT: Normocephalic, atraumatic.  Moist mucous membranes,
oropharynx clear, supple neck.  No scleral icterus.
 -Cardiovascular: Regular rate and rhythm, S1/S2 heard, no
murmurs/rubs/gallops. 
 -Pulmonary: No increased work of breathing.  Lungs clear to
auscultation bilaterally.  No wheezes/rhonchi/rales.
 -Abdominal: Non-distended, bowel sounds normoactive.  No
tenderness to palpation in all quadrants.  No guarding, no
rebound tenderness.
 -Extremities: Warm and well-perfused.  No edema of the limbs.
 -Skin: No rashes or lesions noted.

Neurological:
 -Cranial Nerves:
 ---I: Olfaction not tested.
 ---II: PERRL 3 to 2mm, both directly and consentually; brisk
bilaterally.  
 ---III, IV, VI: EOMI without nystagmus
 ---V: Facial sensation intact to light touch in all
distributions
 ---VII: No facial droop, facial musculature symmetric and ___
strength in upper and lower distributions, bilaterally
 ---VIII: Hearing intact to finger rub bilaterally
 ---IX, X: Palate elevates symmetrically
 ---XI: ___ strength in trapezii and SCM bilaterally
 ---XII: Tongue protrudes in midline
 -Motor: Normal bulk and tone bilaterally. No abnormal 
movements,
 no tremor. Strength ___ throughout.
 -Sensory: No deficits to fine touch throughout
 -DTRs: 2 and symmetrical patellar
 Coordination: Normal on finger to nose test, no intention 
tremor
noted
 -Gait: Good initiation.  Narrow-based, normal stride and arm
swing.

Cognition: 
 -Wakefulness/alertness: Awake and alert
 -Attention: MOYb with 0 errors
 -Orientation: Oriented to person, time, place, situation
 -Executive function (go-no go, Luria, trails, FAS): Not tested
 -Memory: ___ registration, ___ recall after 5 ___
grossly intact
 -Fund of knowledge: Consistent with education and cultural
difference; knows ___ and ___ presidents
 -Calculations: 7 quarters = "$1.75"
 -Abstraction: not tested 
 -Visuospatial: Not assessed
 -Language: ___ as second language speaker, no paraphasic
errors, appropriate to conversation

Mental Status:
 -Appearance: ___ F appearing stated age, well groomed, wearing
casual sweatpants and sweatshirt, in no apparent distress
 -Behavior: Sitting up in chair, appropriate eye contact, no
psychomotor agitation or retardation
 -Attitude: Cooperative, engaged, friendly
 -Mood: "I'm fine."
 -Affect: Mood-congruent, full range, appropriate to situation
 -Speech: Normal rate, volume, and tone
 -Thought process: Linear, coherent, goal-oriented, no loose
associations
 -Thought Content:
 ---Safety: Denies SI/HI
 ---Delusions: No evidence of paranoia, etc. 
 ---Obsessions/Compulsions: No evidence based on current
encounter
 ---Hallucinations: Denies AVH, not appearing to be attending to
internal stimuli
 -Insight:  Poor
 -Judgment: Limited

 
Pertinent Results:
___ 09:00PM   PLT COUNT-175
___ 09:00PM   NEUTS-78.9* LYMPHS-15.4* MONOS-3.8* EOS-1.5 
BASOS-0.2 IM ___ AbsNeut-3.75 AbsLymp-0.73* AbsMono-0.18* 
AbsEos-0.07 AbsBaso-0.01
___ 09:00PM   WBC-4.8 RBC-4.32 HGB-12.8 HCT-39.4 MCV-91 
MCH-29.6 MCHC-32.5 RDW-13.2 RDWSD-44.0
___ 09:00PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG
___ 09:00PM   estGFR-Using this
___ 09:00PM   GLUCOSE-122* UREA N-8 CREAT-0.9 SODIUM-145 
POTASSIUM-3.7 CHLORIDE-107 TOTAL CO2-24 ANION GAP-14
___ 11:35PM URINE  HYALINE-4*
___ 11:35PM URINE  RBC-1 WBC-10* BACTERIA-NONE YEAST-NONE 
EPI-3
___ 11:35PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-30* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-2* PH-6.5 
LEUK-NEG
___ 11:35PM URINE  COLOR-Yellow APPEAR-CLEAR SP ___
___ 11:35PM URINE  HOURS-RANDOM
 
Brief Hospital Course:
Brief Hospital Course 

1. LEGAL & SAFETY:  
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout her admission. She was also placed on 15 minute 
checks status on admission and remained on that level of 
observation throughout while being unit restricted.

2. PSYCHIATRIC:
#)  Adjustment disorder, unspecified 
On admission to ___, patient appeared euthymic and 
reported "fine" mood, and notably denied past or current 
suicidal ideation/intent/plan. No e/o AVH or responding to 
internal stimuli. She stated she felt the Emergency Department 
physicians who evaluated her may have misattributed suicidal 
intent to her reportedly accidental ingestion of too many 
melatonin pills, because her ___ was difficult to understand 
and her own comprehension is imperfect. Given the discrepancy 
between the report written by the Emergency Department 
psychiatry team and what pt reported after admission to 
___, there was concern that pt's insight and judgment 
were impaired. However, treatment team obtained collateral from 
patient's close friend ___ and brother ___, and both 
confirmed patient's report that she had never experienced 
suicidal ideation and accidentally ingested too many melatonin 
pills with the intention of securing a good night's sleep prior 
to a busy day of work at her internship at an ___. 
Indeed, throughout admission pt consistently denied 
SI/intent/plan and denied a history of self-injurious behavior. 
She denied depressed mood/vegative sx of depression, and 
declined a trial of Zoloft. She also denied 
mania/psychosis/anxiety ROS. Her collateral contacts denied any 
psychosocial stressors in the recent past to account for a 
possible adjustment disorder or suicide attempt. 

On day of discharge, MSE was notable for continued euthymic 
affect and "good" mood, and persistent denial of SI/intent/plan 
or SIB. Tx team felt that, although pt may lack full 
insight/judgment ___ developmental stage, she did not continue 
to meet ___ for continued admission given consistent 
denial of mood sx or SI and good behavioral control during 
admission. Pt was discharged with referral to ___ Women's 
Partial Program, as well as to Dr. ___, an 
outpatient therapist. 

3. SUBSTANCE USE DISORDERS:
#)Tobacco use - ___ cigarettes per day most days. Pt was 
counseled on the health hazards of continued smoking and 
declined nicotine patch on admission and on discharge. Pt will 
follow up with Dr. ___ for continued smoking 
cessation counseling.

4. MEDICAL
#) No medical history or home medications.

5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit.  The 
patient occasionally attended these groups that focused on 
teaching patients various coping skills.  In the milieu patient 
was pleasant but largely isolative, preferring to spend time 
with visitors.

#) COLLATERAL INFORMATION AND  FAMILY INVOLVEMENT
Tx team spoke with patient's close friend, ___ (for details, 
see above in HPI). Tx team also spoke with Brother, ___. 

#) INTERVENTIONS
- Medications: n/a
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare: Dr. ___ (therapist), 
___ Women's Partial Hospital Program referral placed
- Behavioral Interventions (e.g. encouraged DBT skills, ect): 
supportive psychotherapy
-Guardianships: n/a

INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting Zoloft, and risks and benefits of possible 
alternatives, including not taking the medication, with this 
patient.   We discussed the patient's right to decide whether to 
take this medication as well as the importance of the patient's 
actively participating in the treatment and discussing any 
questions about medications with the treatment team.  The 
patient appeared able to understand and declined to begin the 
medication.

RISK ASSESSMENT & PROGNOSIS

On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself and/or others based upon 
taking too many pills of melatonin and ibuprofen with 
questionable intention. Her static factors noted at that time 
include age and marital status. The modifiable risk factors were 
also addressed at that time, and included limited coping skills, 
no established outpatient treatment, impulsivity, and recent 
personal loss. These were addressed with arranging outpatient 
follow up at ___ and with therapist Dr. ___, 
as well as with supportive psychotherapy while on the unit. 
Finally, the patient is being discharged with many protective 
risk factors, including help-seeking nature, future-oriented 
viewpoint, life satisfaction, reality testing ability, good 
problem-solving skills, no history of substance use disorder, no 
history of abuse, ability to tolerate rejection, and strong 
social supports.  Thus, I feel the patient does not meet section 
12a criteria for risk of harm to self/others. Overall, the 
patient is not at an acutely elevated risk of self-harm nor 
danger to others due to acutely decompensated psychiatric 
illness.  

 
Medications on Admission:
none
 
Discharge Medications:
none
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Adjustment Disorder, unspecified
Tobacco Use

 
Discharge Condition:
Mental status: Awake and alert, cooperative, pleasant, euthymic 
with 'fine' mood, linear thought process, denies AVH and SI/HI, 
no delusional themes elicited. Improving insight and judgment.

Level of consciousness: Awake and alert

Ambulatory status: Ambulates independently without difficulty

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___